US06969714B2
2-(3-Chloroanilino)-4-[1-(2-phthalimidoethyl)imidazol-5-yl]pyrimidine
2-Phthalimidoethyl triflate (660 mg, 2.04 mmol) was added to solution of the 2-(3-chloroanilino)-4-(1-triphenylmethylimidazol-4-yl)pyrimidine Method 2; 1.00 g, 1.95 mmol) in DCM (5 ml) and the reaction mixture stirred for 4 hours. The solvent was removed by evaporation and MeOH (6 ml) and 2M hydrochloric acid (1.5 ml) was added to the residue. The mixture was stirred for 5 minutes, the volatiles were removed by evaporation and the residue partitioned between EtOAc and saturated aqueous sodium hydrogen carbonate solution. The resulting precipitate was collected by filtration, washed with water and EtOAc and dried to give the title compound 350 mg, (40%) as a solid. NMR: 3.81-3.96 (m, 2H), 4.77-4.92 (m, 2H), 6.98 (d, 1H), 7.06 (d, 1H), 7.31 (t, 1H), 7.37 (d, 1H), 7.63-7.80 (m, 6H), 7.92 (s, 1H), 8.27 (d, 1H), 9.50 (s, 1H); m/z: 443.

reactant | 2-Phthalimidoethyl triflate | 2.04 mmol, 660 mg | O(S(=O)(=O)C(F)(F)F)CCN1C(C=2C(C1=O)=CC=CC2)=O | C11H8F3NO5S
reactant | 2-(3-chloroanilino)-4-(1-triphenylmethylimidazol-4-yl)pyrimidine | ClC=1C=C(NC2=NC=CC(=N2)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C32H24ClN5
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Chloroanilino)-4-[1-(2-phthalimidoethyl)imidazol-5-yl]pyrimidine | 350 mg, 40% | ClC=1C=C(NC2=NC=CC(=N2)C2=CN=CN2CCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C23H17ClN6O2
